US06313137B1
Synthesis of ethyl 2-(2-bromo-3-methylphenyl)acetate
2-(2-bromo-3-methylphenyl)acetic acid (7.9 g, 0.034 mol) and sulfuric acid (0.1 ml) were added to ethanol (25 ml) and the mixture was refluxed overnight. The solvent was evaporated and to the residue was added saturated sodium carbonate. The aqueous solution was extracted twice with diethyl ether, the organic extracts were combiened, washed twice with water, dried and evaporated under reduced pressure to give the desired product as an oil. (8.5 g,97.7%).

reactant | 2-(2-bromo-3-methylphenyl)acetic acid | 0.034 mol, 7.9 g | BrC1=C(C=CC=C1C)CC(=O)O | C9H9BrO2
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl 2-(2-bromo-3-methylphenyl)acetate | BrC1=C(C=CC=C1C)CC(=O)OCC | C11H13BrO2
